US05185340
6-Ethyl-5-propyl-4-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl] methoxy]-2-(trifluoromethyl)pyrimidine.
4-Hydroxy-6-ethyl-5-propyl-2-(trifluoromethyl)pyrimidine (1.2 g, 5 mmole) was converted to the sodium salt with sodium methoxide (275 mg). The sodium salt was dissolved in DMF and mixed with 2.8 g (5 mmole) of 5-(4'-bromomethylbiphenyl-2-yl)-1-trityl-1H-tetrazole [U.S. Pat. No. 4,870,186], and the mixture heated at 50° C. for 18 hours. The solvent was evaporated to dryness and the residue was triturated with excess water to give a gum which was extracted into EtoAc. The organic layer was washed with H2O twice, dried over Na2SO4 and evaporated to a thick oil (4 g). One gram of this oil was treated with dry HCl saturated methanol for 3 hours then evaporated to dryness. The residue was triturated with hexane twice and decanted to afford a gum. The rest of the material was treated in the same way to provide a total of 2 g of crude product. Flash chromatography through silica gel and elution with CHCl3 contg. 4% MeOH gave 210 mg of the desired compound as a white solid. TLC, Silica gel (CHCl3 -MeOH-NH4OH,7:3:2%) Rf 0.55 MS (DCI) [M+H]+ 469

reactant | 4-Hydroxy-6-ethyl-5-propyl-2-(trifluoromethyl)pyrimidine | 5 mmole, 1.2 g | OC1=NC(=NC(=C1CCC)CC)C(F)(F)F | C10H13F3N2O
reactant | sodium | [Na] | Na
reactant | sodium methoxide | 275 mg | C[O-].[Na+]
reactant | 5-(4'-bromomethylbiphenyl-2-yl)-1-trityl-1H-tetrazole | 5 mmole, 2.8 g | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Ethyl-5-propyl-4-[[2'-(1H-tetrazol-5-yl)[1,1'-biphenyl]-4-yl] methoxy]-2-(trifluoromethyl)pyrimidine | 210 mg | C(C)C1=C(C(=NC(=N1)C(F)(F)F)OCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C24H23F3N6O
